US06743794B2
N-t-Butyl-N′-(2-chloro-6-fluorobenzylidene)hydrazine Hydrochloride
A mixture of t-butyl hydrazine hydrochloride (1.24 g, 10 mmol) and 2-chloro-6-fluorobenzaldehyde (1.1 mL, 10 mmol) dissolved in acetic acid (5 mL) was stirred at 50° C. for half hour. Hexanes (10 mL) was added, filtered and washed the white solid with hexanes (20 mL). Yield: 61%. ESMS: 229 (M+1).

reactant | t-butyl hydrazine hydrochloride | 10 mmol, 1.24 g | Cl.C(C)(C)(C)NN
reactant | 2-chloro-6-fluorobenzaldehyde | 10 mmol, 1.1 mL | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-t-Butyl-N′-(2-chloro-6-fluorobenzylidene)hydrazine Hydrochloride | Yield: 61% | Cl.C(C)(C)(C)NN=CC1=C(C=CC=C1F)Cl | InChI=1S/C11H14ClFN2.ClH/c1-11(2,3)15-14-7-8-9(12)5-4-6-10(8)13;/h4-7,15H,1-3H3;1H
